*************
*REVISION 2 18-MAR-2002
*REDUCED INTERACTION OF SLEW RATE WITH CHANGING SUPPLY.
*SYM=PA10
* BEGIN OPAMP MACROMODEL PA13
* PINOUT ORDER +IN -IN OUT +V -V CL+ CL- FO
*                1   2  3   4  5  35 36  37
.SUBCKT PA13 1 2 3 4 5 35 36 37
Q1 10 1 8 QI1
Q2 11 2 9 QI2
R3 12 8 2.68E+03
R4 12 9 2.68E+03
I2 12 5 4.00E-05
C1 12 5 1.43E-12
R5 12 5 2.50E+07
R1 4 10 3.98E+03
R2 4 11 3.98E+03
C2 10 34 15E-12
RZ 34 11 40
I1 4 5 8.56E-03
G1 6 15 11 10 2.51E-04
G2 6 15 12 15 1.41E-09
R6 6 15 1.00E+05
D1 6 15 DD
D2 15 6 DD
C3 6 7 1.00E-11
G3 15 7 15 6 7.08E+00
R7 7 15 1E3
D3 7 16 DD
V1 18 16 2.70E+00
D4 17 7 DD
V2 17 19 4.50E+00
RE1 15 0 0.001
E2 18 0 4 0 1
E3 19 0 5 0 1
R8 7 20 50
C4 20 15 1E-12
Q3 19 20 21 QOP
Q4 18 20 22 QON
Q5 4 23 29 QON
Q6 5 24 30 QOP
Q7 25 27 3 QLNA
Q8 26 28 3 QLPA
R11 21 23 3.97E-02
RF1 27 37 20E3
RF2 28 37 20E3
R13 22 24 3.97E-02
D5 23 25 DL
D6 26 24 DL
R9 27 35 280
R10 28 36 280
I3 18 23 1.64E-02
I4 24 19 1.64E-02
RO1 29 35 0.134
RO2 30 36 0.134
RFF1 37 35 10E6
RFF2 37 36 10E6
.MODEL DD D(CJO=0.1PF IS=1E-17)
.MODEL DL D(CJO=3PF IS=1E-13)
.MODEL QI1 NPN (BF=2.22E+03 IS=8E-16)
.MODEL QI2 NPN (BF=1.33E+03 IS=8.62E-16)
.MODEL QOP PNP (BF=9.60E+02 IS=1E-14)
.MODEL QON NPN (BF=9.60E+02 IS=1E-14)
.MODEL QLN NPN (BF=100 IS=1E-14)
.MODEL QLP PNP (BF=100 IS=1E-14)
.MODEL QLNA NPN (BF=100 IS=4E-13)
.MODEL QLPA PNP (BF=100 IS=4E-13)
* END OF OPAMP MACROMODEL
.ENDS
*************
